US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and pyrimidine-5-boronic acid were coupled in the same way as in Example 30 to give 2-{8-fluoro-3-[4-fluoro-3-(pyrimidin-5-yl)phenyl]-imidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (7 mg, 6%): m/z (ES+) 367 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | pyrimidine-5-boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 2-{8-fluoro-3-[4-fluoro-3-(pyrimidin-5-yl)phenyl]-imidazo[1,2-α]pyridin-7-yl}propan-2-ol | 7 mg, 6% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C2=CC(=C(C=C2)F)C=2C=NC=NC2 | C20H16F2N4O
